US08084442B2
Synthesis of 3(S)-[(3,4-dichlorophenyl)phenylamino]pyrrolidine-1-carboxylic acid tert-butyl ester
Sodium hydride (0.36 g, 60% in oil) was added to 20 ml of dimethyl sulfoxide (DMSO) and stirred at 60° C. for one hour. Subsequently, 2.0 g of 3,4-dichlorophenyl-phenylamine was added to the mixture and stirred at 60° C. for one hour. A DMSO solution containing 1.5 g of 3(R)-methanesulfonyloxypyrrolidine-1-carboxylic acid tert-butyl ester was gradually added to the mixture and stirred at 60° C. for 15 hours. Ethyl acetate was added to the reaction solution, and the reaction solution was then washed with water and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=20:1). The eluent solvent was distilled off under reduced pressure to thereby obtain 0.13 g of light brown amorphous solid 3(S)-[(3,4-dichlorophenyl)phenylamino]pyrrolidine 1-carboxylic acid tert-butyl ester.

reactant | Sodium hydride | 0.36 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | 3,4-dichlorophenyl-phenylamine | 2.0 g | ClC=1C=C(C=CC1Cl)NC1=CC=CC=C1 | C12H9Cl2N
reactant | 3(R)-methanesulfonyloxypyrrolidine-1-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OS(=O)(=O)C | C10H19NO5S
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3(S)-[(3,4-dichlorophenyl)phenylamino]pyrrolidine-1-carboxylic acid tert-butyl ester | 0.13 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N(C1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl | C21H24Cl2N2O2
